US03959351
p-Formyl benzoyl choline bromide.
p-Bromomethyl benzoyl choline bromide (102 mg.) sodium bicarbonate (24.8 mg.) and dimethylsulfoxide (0.3 ml.) are heated in an oil bath at 125° for about 5 minutes until vigorous effervescence ceases. The solution is cooled giving a suspension which upon dilution with 2 ml. of water is dissolved. The addition of 5 ml. of absolute ethanol at room temperature yields a crystalline precipitate which is isolated by centrifugation. The solid is isolated, and dried in vacuo at 75° to yield a crisp glassy solid of hygroscopic character having spectral characteristics indicating the structure of p-formylbenzoyl choline iodide. In accordance with the foregoing procedure but starting with

reactant | p-Bromomethyl benzoyl choline bromide | 102 mg | [Br-].BrCC1=CC=C(C(=O)OCC[N+](C)(C)C)C=C1
reactant | sodium bicarbonate | 24.8 mg | C([O-])(O)=O.[Na+]
reactant | dimethylsulfoxide | 0.3 ml | CS(=O)C | C2H6OS
reactant | p-formylbenzoyl choline iodide | [I-].C(=O)C1=CC=C(C(=O)OCC[N+](C)(C)C)C=C1
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | p-Formyl benzoyl choline bromide | [Br-].C(=O)C1=CC=C(C(=O)OCC[N+](C)(C)C)C=C1 | InChI=1S/C13H18NO3.BrH/c1-14(2,3)8-9-17-13(16)12-6-4-11(10-15)5-7-12;/h4-7,10H,8-9H2,1-3H3;1H/q+1;/p-1
